US05104879
40.8 g (0 3 mol) of sulphuryl chloride were added dropwise at room temperature (22° C.) to 48 g (0.275 mol) of 2,4,5-trifluoroacetophenone (obtained according to Example 110)dissolved in 400 ml of dichloromethane and the mixture was stirred until evolution of hydrogen chloride had ended (about 2 hours). The reaction mixture was then added to 600 ml of water, the organic phase was separated off, this was washed until neutral with sodium hydrogen carbonate solution and dried over magnesium sulphate, and the solvent was stripped off in a water pump vacuum. 48.6 g of 2,4,5-trifluorophenacyl chloride were obtained as an oily residue, which corresponds to 84.5% of theory. The characterization of the product carried out as in Examples 113 to 119 yielded a & value of 5.29 ppm.

reactant | sulphuryl chloride | 3 mol, 40.8 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2,4,5-trifluoroacetophenone | 0.275 mol, 48 g | CC(=O)C1=CC(=C(C=C1F)F)F | C8H5F3O
reactant | hydrogen chloride | Cl | ClH
reactant | water | 600 ml | O | H2O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 2,4,5-trifluorophenacyl chloride | 48.6 g | FC1=C(C(CCl)=O)C=C(C(=C1)F)F | C8H4ClF3O
